US09428456B2
1-(2-Bromo-pyridin-4-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide K-1
A mixture of 2-bromo-4-formylpyridine (1 g, 5.38 mmol), piperidine-4-carboxylic acid cyclohexylamide hydrochloride J-1 (1.327 g, 5.38 mmol) and DIPEA (2.78 mL, 16.13 mmol) in DCM (25 mL) is treated with sodium triacetoxy borohydride (2.28 g, 10.75 mmol) in 5 portions over 20 min. and the reaction mixture is stirred for 18 h at RT. Aq. sat. NaHCO3 (25 mL) is added and the mixture is stirred for 30 min. The phases are separated and the aqueous phase is extracted twice with DCM (25 mL). The combined organic phases are dried over MgSO4 and evaporated. The crude residue is purified by flash chromatography on silica gel using a gradient of heptane and EtOAc 1:4 to EtOAc 100%. After concentration of the product-containing fractions, the title compound (1.18 g, 58%) is obtained as a colorless solid LC-MS A: tR=0.59 min; [M+H]+=382.15.

reactant | 2-bromo-4-formylpyridine | 5.38 mmol, 1 g | BrC1=NC=CC(=C1)C=O | C6H4BrNO
reactant | piperidine-4-carboxylic acid cyclohexylamide hydrochloride | 5.38 mmol, 1.327 g | Cl.C1(CCCCC1)NC(=O)C1CCNCC1
reactant | DIPEA | 16.13 mmol, 2.78 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium triacetoxy borohydride | 10.75 mmol, 2.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromo-pyridin-4-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide | 1.18 g, 58% | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=NC=C1)Br | C18H26BrN3O
